US06034246
2-(4'-amino-3'-iodophenyl)-6-methoxybenzothiazole (DF210)
2-(4'-Aminophenyl)-6-methoxybenzothiazole (0.22 g, 0.84 mmol) was treated with iodine monochloride (0.21 g, 1.3 mmol) in acetic acid according to the above-described general procedure for iodination. Crude product was purified by flash chromatography on silica gel, using ethyl acetate-hexane (1:3) as eluent, to give brown small crystals (0.18 g, 54.9%), m.p. 179.2-181.1° C.

reactant | 2-(4'-Aminophenyl)-6-methoxybenzothiazole | 0.84 mmol, 0.22 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | iodine monochloride | 1.3 mmol, 0.21 g | ICl | ClI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(4'-amino-3'-iodophenyl)-6-methoxybenzothiazole | 0.18 g, 54.9% | NC1=C(C=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)I | C14H11IN2OS
